US04348399
A solution of 10 g. of ethyl p-nitrophenylglyoxylate in 10.0 ml. of ethanol is hydrogenated at room temperature and atmospheric pressure with 10% palladium-on-carbon catalyst until the starting material has disappeared by thin-layer chromatographic analysis. The system is purged with nitrogen, the reaction mixture is filtered through a celite pad and the solvent is evaporated. Recrystallization of the residue provides ethyl p-aminophenylglyoxylate.

reactant | ethyl p-nitrophenylglyoxylate | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)=O | C10H9NO5
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | ethyl p-aminophenylglyoxylate | NC1=CC=C(C=C1)C(C(=O)OCC)=O | C10H11NO3
